US06300330B1
4-(4-Pyridyl)benzoic acid (238 mg,1.2 mmol) was suspended in DMF (5 mL) with triethylamine (0.17 mL, 1.2 mmol). The reaction mixture was stirred at room temperature for 15 minutes then cooled to 5° C. Carbonyldiimidazole (194 mg, 1.2 mmol) was added and the reaction mixture allowed to warm slowly to room temperature over one hour. 4-(6-Bromonaphth-2-ylsulphonyl)piperazine hydrochloride (470 mg, 1.2 mmol) was added as a solid in one portion and the reaction mixture stirred for 2 days at room temperature. The reaction mixture was diluted with ethyl acetate (50 mL) and washed twice with saturated aqueous sodium hydrogen carbonate solution (2×50 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The resulting solid was subjected to chromatography (SiO2; 2%, 4%, 6%. 8%, 10% methanol/ethyl acetate) to yield 1-(6-bromonaphth-2-ylsulphonyl)-4-[4-(4-pyridyl)benzoyl]piperazine as a white solid (90 mg), 1H NMR (DMSO-d6) δ=3.07 ppm (s,4H), δ=3.59 ppm (s,4H), δ=7.27 & 7.46 ppm (dd,4H), δ=7.18 & 8.64 ppm (dd,4H), δ=7.34 ppm (m,2H), δ=8.17 ppm (dd,2H), δ=8.39 ppm (d,1H), δ=8.47 ppm (s,1H); MS (M+H)+ 536.

reactant | 4-(4-Pyridyl)benzoic acid | 1.2 mmol, 238 mg | N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | Carbonyldiimidazole | 1.2 mmol, 194 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(6-Bromonaphth-2-ylsulphonyl)piperazine hydrochloride | 1.2 mmol, 470 mg | Cl.BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-(6-bromonaphth-2-ylsulphonyl)-4-[4-(4-pyridyl)benzoyl]piperazine | 90 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C26H22BrN3O3S
